US08003785B2
To a mixture of 0.060 g (0.139 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methyl-benzoic acid (I-184) and 8 mL of dimethylformamide was added 0.0282 g (0.209 mmole) of 1-hydroxybenzotriazole, 0.079 g (0.208 mmole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate and 0.072 g (0.555 mmole) of diisopropylethylamine. The mixture was stirred for 10 minutes, then 0.0212 g (0.207 mmole) of 3-(dimethylamino)propylamine was added. The reaction mixture was stirred for 2 hours and then concentrated under reduced pressure. The residue was dissolved in 80 mL of ethyl acetate and washed three times with 10 mL of 1M sodium hydroxide, twice with 15 mL of brine, dried, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.0651 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-methyl-benzamide (I-189) as a white solid

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methyl-benzoic acid | 0.139 mmole, 0.060 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)C | C21H23F2N5O3
reactant | 1-hydroxybenzotriazole | 0.209 mmole, 0.0282 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.208 mmole, 0.079 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 0.555 mmole, 0.072 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(dimethylamino)propylamine | 0.207 mmole, 0.0212 g | CN(CCCN)C | C5H14N2
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-methyl-benzamide | 0.0651 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NCCCN(C)C)C=C2)C | C26H35F2N7O2
